data/polar.json
{"reaction_name": "Benzylic alcohol substitution", "rsmi": "[Cl:7][H:10].[cH:1]1[cH:4][cH:2][cH:9][c:5]([CH2:3][OH:6])[cH:8]1>>[OH:6][H:10].[cH:1]1[cH:4][cH:2][cH:9][c:5]([CH2:3][Cl:7])[cH:8]1", "epd": [["LP-/Sigma+", [7], [3, 7]], ["Sigma-/LP+", [3, 6], [6]], ["LP-/Sigma+", [6], [6, 10]], ["Sigma-/LP+", [7, 10], [7]]]}
{"reaction_name": "Iminium ion formation", "rsmi": "[NH+:1]([CH3:2])([CH:4]([OH:3])[CH3:5])[H:6]>>[NH+:1]([CH3:2])=[CH:4][CH3:5].[OH:3][H:6]", "epd": [["Sigma-/Pi+", [1, 6], [1, 4]], ["Sigma-/LP+", [3, 4], [3]], ["LP-/Sigma+", [3], [3, 6]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[S:1]([c:4]1[cH:23][cH:16][cH:10][cH:17][cH:24]1)([O-:5])=[O:21].[n:2]1[n:3][c:20]2[n:8]([cH:11][c:19]([N+:7](=[O:6])[O-:15])[cH:14][c:12]2[N+:13](=[O:9])[O-:22])[n:18]1>>[S+:1]([c:4]1[cH:23][cH:16][cH:10][cH:17][cH:24]1)([O-:5])([CH:11]1[n:8]2[n:18][n:2][n:3][c:20]2[C:12]([N+:13](=[O:9])[O-:22])=[CH:14][C:19]1=[N+:7]([O-:6])[O-:15])=[O:21]", "epd": [["LP-/Sigma+", [1], [1, 11]], ["Pi-/Pi+", [11, 19], [19, 7]], ["Pi-/LP+", [7, 6], [6]]]}
{"reaction_name": "Alkyne formation by double dehydrohalogenation", "rsmi": "[CH:1]([C:2]([Br:5])([CH3:6])[H:9])([Br:7])[H:8].[NH2-:3].[NH2-:4]>>[Br-:5].[Br-:7].[CH:1]#[C:2][CH3:6].[NH2:3][H:8].[NH2:4][H:9]", "epd": [["LP-/Sigma+", [3], [3, 8]], ["Sigma-/Pi+", [1, 8], [1, 2]], ["LP-/Sigma+", [4], [4, 9]], ["Sigma-/LP+", [2, 9], [2]], ["LP-/Pi+", [2], [1, 2]], ["Sigma-/LP+", [1, 7], [7]], ["Sigma-/LP+", [2, 5], [5]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[N:1]1([c:20]2[cH:33][cH:2][n:41][cH:3][cH:34]2)[CH2:15][CH2:40][CH2:4][CH:16]1[C:31]([c:23]1[cH:5][cH:11][cH:17][cH:12][cH:6]1)([c:24]1[cH:7][cH:13][cH:18][cH:14][cH:8]1)[F:39].[S:9]([c:21]1[cH:35][cH:27][cH:25][cH:30][cH:38]1)([C:32]([S:10]([c:22]1[cH:36][cH:28][cH:26][cH:29][cH:37]1)(=[O:42])=[O:43])=[CH2:19])(=[O:44])=[O:45]>>[N+:1]1(=[c:20]2[cH:33][cH:2][n:41]([CH2:19][C-:32]([S:9]([c:21]3[cH:35][cH:27][cH:25][cH:30][cH:38]3)(=[O:44])=[O:45])[S:10]([c:22]3[cH:36][cH:28][cH:26][cH:29][cH:37]3)(=[O:42])=[O:43])[cH:3][cH:34]2)[CH2:15][CH2:40][CH2:4][CH:16]1[C:31]([c:23]1[cH:5][cH:11][cH:17][cH:12][cH:6]1)([c:24]1[cH:7][cH:13][cH:18][cH:14][cH:8]1)[F:39]", "epd": [["Pi-/LP+", [19, 32], [32]], ["LP-/Pi+", [1], [1, 20]], ["Pi-/Pi+", [20, 34], [3, 34]], ["Pi-/Sigma+", [3, 41], [19, 41]]]}
{"reaction_name": "Intramolecular Mannich addition", "rsmi": "[C:1](=[O:2])([CH3:4])[CH-:9][CH2:10][CH2:3][CH2:6][CH:11]=[N+:5]([CH3:7])[CH3:8]>>[C:1](=[O:2])([CH3:4])[CH:9]1[CH2:10][CH2:3][CH2:6][CH:11]1[N:5]([CH3:7])[CH3:8]", "epd": [["LP-/Sigma+", [9], [9, 11]], ["Pi-/LP+", [5, 11], [5]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:4]1([Cl:16])=[C:5]([Cl:17])[C:7](=[O:10])[C:13]([C:18]#[N:20])=[C:14]([C:19]#[N:21])[C:6]1=[O:9].[S:1]([c:2]1[cH:22][cH:11][cH:8][cH:12][cH:23]1)([O-:3])=[O:15]>>[S+:1]([c:2]1[cH:22][cH:11][cH:8][cH:12][cH:23]1)([O-:3])([C:13]1([C:18]#[N:20])[C:7](=[O:10])[C:5]([Cl:17])=[C:4]([Cl:16])[C:6]([O-:9])=[C:14]1[C:19]#[N:21])=[O:15]", "epd": [["LP-/Sigma+", [1], [1, 13]], ["Pi-/Pi+", [13, 14], [14, 6]], ["Pi-/LP+", [6, 9], [9]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:32](=[O:2])([c:18]1[cH:4][cH:14][c:23]([CH3:33])[cH:15][cH:5]1)[n:24]1[cH:17][c:21]([N+:20](=[O:7])[O-:10])[c:22]2[cH:13][cH:26][c:16]([N+:30](=[O:28])[O-:29])[cH:3][c:25]21.[cH:6]1[cH:9][c:11]2[c:34]([cH:19][cH:35]1)[CH:31]=[CH:8][CH:27]2[Li:12]>>[Li+:12].[O:1]=[S:32](=[O:2])([c:18]1[cH:4][cH:14][c:23]([CH3:33])[cH:15][cH:5]1)[N:24]1[CH:17]([CH:27]2[CH:8]=[CH:31][c:34]3[c:11]2[cH:9][cH:6][cH:35][cH:19]3)[C:21](=[N+:20]([O-:7])[O-:10])[c:22]2[cH:13][cH:26][c:16]([N+:30](=[O:28])[O-:29])[cH:3][c:25]21", "epd": [["Sigma-/Sigma+", [27, 12], [27, 17]], ["Pi-/Pi+", [17, 21], [21, 20]], ["Pi-/LP+", [20, 7], [7]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH2:4]1[N:19]2[CH2:5][CH2:24][N:9]([CH2:42][c:13]3[cH:26][cH:31][cH:38][cH:32][cH:27]3)[c:35]3[c:17]2[c:34]([cH:20][n:18][cH:21]3)[N:8]([CH2:41][c:12]2[cH:25][cH:30][cH:37][cH:33][cH:28]2)[CH2:23]1.[N+:1](=[O:2])([c:11]1[cH:7][c:14]([N+:22](=[O:6])[O-:36])[cH:29][c:10]2[c:40]1[n:16][o:39][n+:43]2[O-:3])[O-:15]>>[N+:1](=[O:2])([C:11]1=[CH:7][C:14](=[N+:22]([O-:6])[O-:36])[CH:29]([N:18]2[CH:20]=[C:34]3[N:8]([CH2:41][c:12]4[cH:25][cH:30][cH:37][cH:33][cH:28]4)[CH2:23][CH2:4][N+:19]4=[C:17]3[C:35](=[CH:21]2)[N:9]([CH2:42][c:13]2[cH:26][cH:31][cH:38][cH:32][cH:27]2)[CH2:24][CH2:5]4)[c:10]2[c:40]1[n:16][o:39][n+:43]2[O-:3])[O-:15]", "epd": [["LP-/Pi+", [19], [17, 19]], ["Pi-/Pi+", [34, 17], [20, 34]], ["Pi-/Sigma+", [18, 20], [18, 29]], ["Pi-/Pi+", [29, 14], [14, 22]], ["Pi-/LP+", [22, 6], [6]]]}
